US06110903
Preparation of 1-ethyl-2-methyl-4-nitrobenzimidazole
To a solution of 0.47 g (2.65 mmol) 2-methyl-4-nitrobenzimidazole, and 0.12 g (2.92 mmol) of sodium hydride in 10 mL of dry dimethylformamide was added 0.218 mL (2.92 mmol) bromoethane. The mixture was heated overnight at 65° C. The mixture was cooled to room temperature and the solvents were removed under reduced pressure. The resultant syrup was partitioned between water and ethyl acetate. The organic phase was evaporated to dryness and the syrup chromatographed on silica to yield 0.31 g (1.51 mmol, 52%) of a yellow syrup.

reactant | 2-methyl-4-nitrobenzimidazole | 2.65 mmol, 0.47 g | CC=1NC2=C(N1)C=CC=C2[N+](=O)[O-] | C8H7N3O2
reactant | sodium hydride | 2.92 mmol, 0.12 g | [H-].[Na+]
reactant | bromoethane | 2.92 mmol, 0.218 mL | BrCC | C2H5Br
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 1-ethyl-2-methyl-4-nitrobenzimidazole | 1.51 mmol, 0.31 g, 52% | C(C)N1C(=NC2=C1C=CC=C2[N+](=O)[O-])C | C10H11N3O2
